US03979381
3-(3,4-Dichlorophenyl)-7-[(3,4-dichlorophenyl)methylene]-2,3,3a,4,6,7-hexahydro-2-propylthiopyrano[4,3-c]pyrazole
A suspension of 6.5g of tetrahydro-3,5-bis-[(3,4-dichlorophenyl)methylene]-4H-thiopyran-4-one and 1.1g of n-propyl hydrazine in 250ml of methanol/chloroform (1:1) is heated at reflux temperature for about 16 hours. The reaction mixture is allowed to cool slightly. Unreacted starting material precipitates out and is removed by filtration. The filtrate is concentrated in vacuo, added to chloroform and washed with dilute hydrochloric acid and water. The organic layer is dried with magnesium sulfate and concentrated in vacuo to 5g of a semi-solid material. This is applied to a wet-packed (hexane) neutral alumina column (Activity I) and eluted with 0-100% ether/hexane. Elution with 10-40% ether/hexane yields the product as an oil.

reactant | tetrahydro-3,5-bis-[(3,4-dichlorophenyl)methylene]-4H-thiopyran-4-one | 6.5g | ClC=1C=C(C=CC1Cl)C=C1CSCC(C1=O)=CC1=CC(=C(C=C1)Cl)Cl | C19H12Cl4OS
reactant | n-propyl hydrazine | 1.1g | C(CC)NN | C3H10N2
solvent | methanol chloroform | 250ml | CO.C(Cl)(Cl)Cl
product | 3-(3,4-Dichlorophenyl)-7-[(3,4-dichlorophenyl)methylene]-2,3,3a,4,6,7-hexahydro-2-propylthiopyrano[4,3-c]pyrazole | ClC=1C=C(C=CC1Cl)C1C2C(=NN1CCC)C(CSC2)=CC2=CC(=C(C=C2)Cl)Cl | C22H20Cl4N2S
